US06995143B2
B] 3-Oxo-3-[[2-(2-pyridinyl)ethyl]amino]-propanoic acid
900 mg (3.03 mmol) 3-oxo-3-[[2-(2-pyridinyl)ethyl]amino]-propanoic acid phenylmethyl ester were dissolved in 25 ml THF and 15 mg palladium on charcoal (10%) were added. The reaction was kept under an atmosphere of hydrogen using a balloon for 10 hours. The mixture was filtered through dicalite. The solids were washed with THF and methanol. The combined filtrate was evaporated and dried under high vacuum. The crude product (300 mg) was used without further purification for the next reaction. 1H-NMR (CDCl3): 2.82–2.90 (m, 2H), 3.08 (s, 2H), 3.38–3.47 (m, 2H), 7.19–7.28 (m, 2H), 7.65–7.74 (m, 1H), 8.16–8.24 (m, br, 1H), 8.47–8.51 (m, H).

reactant | 3-oxo-3-[[2-(2-pyridinyl)ethyl]amino]-propanoic acid phenylmethyl ester | 3.03 mmol, 900 mg | C1(=CC=CC=C1)COC(CC(NCCC1=NC=CC=C1)=O)=O | C17H18N2O3
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 15 mg | [Pd] | Pd
product | 3-Oxo-3-[[2-(2-pyridinyl)ethyl]amino]-propanoic acid | O=C(CC(=O)O)NCCC1=NC=CC=C1 | C10H12N2O3
